US07622471B2
4-(4-Fluorophenyl)-2,4-dioxobutanoic acid ethyl ester
The general procedure of Referential Example 3-1) was repeated through use of 4′-fluoroacetophenone (3.0 g) and diethyl oxalate (5.9 mL), to thereby give the title compound as a solid (3.12 g, 60%).

reactant | 4′-fluoroacetophenone | 3.0 g | FC1=CC=C(C=C1)C(C)=O | C8H7FO
reactant | diethyl oxalate | 5.9 mL | C(C(=O)OCC)(=O)OCC | C6H10O4
product | 4-(4-Fluorophenyl)-2,4-dioxobutanoic acid ethyl ester | 3.12 g, 60% | C(C)OC(C(CC(=O)C1=CC=C(C=C1)F)=O)=O | C12H11FO4
